US06743791B2
2,2,2-Trichloro-1-(4-(3-Chlorophenyl)acetyl-1H-pyrrol-2-yl)-ethanone (2)
In a dry flask, 3-chlorophenylacetyl chloride (1 equivalent) was combined with 2-trichloroacetyl pyrrole (1 equivalent) in a minimum amount of dichloromethane (DCM). To the resulting solution, at ambient temperature, was added aluminum trichloride (1 equivalent). After 2 hours, the reaction mixture was applied directly onto a silica gel column. Gradient elution with 10% ethyl acetate to 50% ethyl acetate in hexanes provided compound 2. HPLC using method A provided Rt of 15 minutes.

reactant | 3-chlorophenylacetyl chloride | 1 equivalent | ClC=1C=C(C=CC1)CC(=O)Cl | C8H6Cl2O
reactant | 2-trichloroacetyl pyrrole | 1 equivalent | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | aluminum trichloride | 1 equivalent | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2,2-Trichloro-1-(4-(3-Chlorophenyl)acetyl-1H-pyrrol-2-yl)-ethanone | ClC(C(=O)C=1NC=C(C1)C(CC1=CC(=CC=C1)Cl)=O)(Cl)Cl | C14H9Cl4NO2
